US09035053B2
Step 3: tert-Butyl N-[[4-[hydroxyiminomethyl]phenyl]methyl]-N-methyl-carbamate
A biphasic solution of tert-butyl N-[[4-(diethoxymethyl)phenyl]methyl]-N-methyl-carbamate (50.0 g, 154.6 mmol) in 2-MeTHF (400.0 mL) and Na2SO4 (100.0 mL of 10% w/v, 70.40 mmol) was stirred at 8-10° C. in a 1-L, glass-jacketed reactor. Hydroxylamine hydrochloride (46.38 mL of 5.0 M, 231.9 mmol) was added and the biphasic solution was stirred at 30° C. for 16 hours. The reaction was diluted with MTBE (200.0 mL) and the layers separated. The organic phase was washed with water (200.0 mL), dried (Na2SO4), filtered and concentrated in vacuo. The residue was diluted with heptane (200.0 mL) and the resultant suspension was stirred at ambient temperature for 30 minutes. The solid was collected by filtration to give the title compound as a white solid (36.5 g, 89% Yield); 1H NMR (400 MHz, CDCl3) δ 1.50 (s, 9H), 2.88 (br s, 3H), 4.60 (s, 2H), 7.26 (d, 2H), 7.52 (d, 2H) and 8.15 (s, 1H) ppm.

reactant | tert-butyl N-[[4-(diethoxymethyl)phenyl]methyl]-N-methyl-carbamate | 154.6 mmol, 50.0 g | C(C)OC(C1=CC=C(C=C1)CN(C(OC(C)(C)C)=O)C)OCC | C18H29NO4
reactant | Na2SO4 | 70.40 mmol, 100.0 mL | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | Hydroxylamine hydrochloride | 231.9 mmol, 5.0 M, 46.38 mL | Cl.NO
solvent | 2-MeTHF | 400.0 mL | CC1CCCO1 | C5H10O
solvent | MTBE | 200.0 mL | CC(C)(C)OC | C5H12O
product | tert-Butyl N-[[4-[hydroxyiminomethyl]phenyl]methyl]-N-methyl-carbamate | 36.5 g, 89% Yield | ON=CC1=CC=C(C=C1)CN(C(OC(C)(C)C)=O)C | C14H20N2O3
